US06960591B2
Into a 1,4-dioxane solution (250 ml) containing 2-amino-4-chlorothiazol-5-carbaldehyde (10.83 g) was added 4-(dimethylamino)pyridine (1 g). Then, a 1,4-dioxane solution (100 ml) containing di-tert-butyl dicarbonate (29 g) was gradually added dropwise under heating at 60° C., and then the whole was continued to stir for about 30 minutes. After the reaction solution was cooled upon standing, the solvent was evaporated under reduced pressure and an appropriate amount of 5% potassium hydrogen sulfate aqueous solution was poured to the thus obtained residue, followed by extraction with ethyl acetate. After the organic layer was washed with water and dried over anhydrous magnesium sulfate, the crude product formed by solvent evaporation was purified by silica gel column chromatography to obtain tert-butyl (4-chloro-5-formylthiazol-2-yl)-carbamate (10.73 g) as pale brown crystals from the fractions eluted with ethyl acetate-toluene (2:3 (v/v)).

reactant | 2-amino-4-chlorothiazol-5-carbaldehyde | 10.83 g | NC=1SC(=C(N1)Cl)C=O | C4H3ClN2OS
reactant | di-tert-butyl dicarbonate | 29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (4-chloro-5-formylthiazol-2-yl)-carbamate | 10.73 g | ClC=1N=C(SC1C=O)NC(OC(C)(C)C)=O | C9H11ClN2O3S
